US07241786B2
[1-(5-tert-Butyl-isoxazol-3-ylcarbamoyl)-propyl-carbamic acid tert-butyl ester
Prepared by the analogous method for the preparation of [1-(5-tert-butyl-isoxazol-3-ylcarbamoyl)butyl]-carbamic acid tert-butyl ester, starting with an appropriate amino-isoxazole (1 a-b) together with an appropriate N-t-BOC-amino acid methyl or ethyl ester.

reactant | [1-(5-tert-butyl-isoxazol-3-ylcarbamoyl)butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CCC)C(NC1=NOC(=C1)C(C)(C)C)=O)=O | C17H29N3O4
reactant | amino-isoxazole | NC1=NOC=C1 | C3H4N2O
product | 1-(5-tert-Butyl-isoxazol-3-ylcarbamoyl)-propyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC)C(NC1=NOC(=C1)C(C)(C)C)=O)=O | C16H27N3O4
